US09428452B2
N-(2,4-dimethylphenyl)-N-(2-methylpropyl)-4-{[2-(4-morpholinyl)ethyl]oxy}benzenesulfonamide
To a microwave vial was added morpholine (5.10 μL, 0.058 mmol), potassium iodide (19.26 mg, 0.116 mmol), [Cp*IrCl2]2 (0.639 mg, 0.580 μmol), N-(2,4-dimethylphenyl)-4-[(2-hydroxyethyl)oxy]-N-(2-methylpropyl)benzenesulfonamide (43.8 mg, 0.116 mmol), a stirrer bar and water (0.1 mL). The vial was then sealed and the mixture was heated to 150° C. by microwaves (Biotage Initiator) for 3 hours. Reaction mixture was then diluted with methanol (1 mL) and passed down a pre-conditioned sulfonic acid (SCX) solid phase extraction (SPE) cartridge, eluting with methanol and then 2N methanolic ammonia. The fractions from the methanolic ammonia wash were concentrated in vacuo and the residue purified by mass-directed autoprep, using a formic acid modifier. Product containing fractions were evaporated under a stream of nitrogen to provide product, 2.6 mg. LCMS [LCMS1] Rt 1.01 min, m/z (ES+) 447 (M+H).

reactant | morpholine | 0.058 mmol, 5.10 μL | N1CCOCC1 | C4H9NO
reactant | potassium iodide | 0.116 mmol, 19.26 mg | [I-].[K+]
reactant | N-(2,4-dimethylphenyl)-4-[(2-hydroxyethyl)oxy]-N-(2-methylpropyl)benzenesulfonamide | 0.116 mmol, 43.8 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)OCCO)CC(C)C | C20H27NO4S
reactant | water | 0.1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | N-(2,4-dimethylphenyl)-N-(2-methylpropyl)-4-{[2-(4-morpholinyl)ethyl]oxy}benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)OCCN1CCOCC1)CC(C)C | C24H34N2O4S
